US07842688B2
c) Methyl 2-(3-methoxypropoxy)-4-methylbenzoate
Analogously to Method F, 103.7 g of methyl 2-hydroxy-4-methylbenzoate are reacted with 95.8 g of 1-chloro-3-methoxypropane. The title compound is obtained as slightly beige oil. Rf=0.27 (1:2 EtOAc-heptane); Rt=4.22.

reactant | methyl 2-hydroxy-4-methylbenzoate | 103.7 g | OC1=C(C(=O)OC)C=CC(=C1)C | C9H10O3
reactant | 1-chloro-3-methoxypropane | 95.8 g | ClCCCOC | C4H9ClO
product | Methyl 2-(3-methoxypropoxy)-4-methylbenzoate | COCCCOC1=C(C(=O)OC)C=CC(=C1)C | C13H18O4
